US07067529B2
To a solution of 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (103.5 mg, 0.22 mmol) in 8 ml of methylene chloride was added 1.0 equivalent of N-benzylpiperazine, 1.05 equivalent of HBTU and 4 equivalent of triethylamine. The mixture was stirred at room temperature overnight. The solvents were evaporated and the residue was extracted with ethyl acetate and water. The organic phase was dried and solvents were evaporated. The residue was dissolved in 4 ml of methanol and aqueous lithium hydroxide was added (0.5N, 1 ml). The mixture was stirred overnight until all starting material disappeared. The reaction was loaded on a preparative HPLC for purification to give 1-{3-[2-(4-Benzyl-piperazin-1-yl)-2-oxo-ethoxy]-benzoyl}-6,7-dimethoxy-isoquinoline-4-carboxylic acid as a fluffy solid (43 mg, 35%). ES-MS calcd for C32H31N3O7 (m/e) 569.6, obsd 570.3 (M+H).

reactant | 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 0.22 mmol, 103.5 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OCC(=O)O)=O | C23H21NO8
reactant | N-benzylpiperazine | 1.0 equivalent | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | HBTU | 1.05 equivalent | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4 equivalent | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[2-(4-Benzyl-piperazin-1-yl)-2-oxo-ethoxy]-benzoyl}-6,7-dimethoxy-isoquinoline-4-carboxylic acid | 43 mg, 35% | C(C1=CC=CC=C1)N1CCN(CC1)C(COC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)O)C=CC1)=O | C32H31N3O7
